US05952511
1-Benzyl-3-(hydroxyimino)indolin-2-one
To a suspension of 7.11 g of N-benzylisatin in 75 ml of ethanol was added a solution of 3.84 g of hydroxylamine hydrochloride and 3.84 g of sodium acetate in 500 ml of water. The mixture was stirred at room temperature for 1 hour, followed by concentration. The residue was washed with water and recrystallized from ethanol to give 6.11 g (81%) of the title compound as yellow crystals.

reactant | N-benzylisatin | 7.11 g | C(C1=CC=CC=C1)N1C(=O)C(=O)C2=CC=CC=C12 | C15H11NO2
reactant | hydroxylamine hydrochloride | 3.84 g | Cl.NO
reactant | sodium acetate | 3.84 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
product | 1-Benzyl-3-(hydroxyimino)indolin-2-one | 6.11 g, 81% | C(C1=CC=CC=C1)N1C(C(C2=CC=CC=C12)=NO)=O | C15H12N2O2
